US07511148B2
10 g of 5-ethyl-2-pyridine ethanol, 10.2 ml triethylamine and 75 ml toluene are added to the round bottom assembly at ambient temperature. Thereafter 6.16 ml methane sulfonyl chloride are added via dropping funnel in 1 hour. The reaction mixture is stirred at ambient temperature for 1 hour and then washed with water. To the toluene layer are added 22.6 ml PEG200, 13.6 g potassium carbonate and 12 g 4-hydroxy benzaldehyde and the reaction mixture stirred for 4 hours at 80° C. The reaction mixture is cooled to ambient temperature and washed with 1 N alkali followed by water. Toluene is distilled off to obtain 4[2-(5-ethyl-2-pyridyl)ethoxy]benzaldehyde as oil to which are added methanol, pyrrolidine followed by 2,4-thiazolidinedione. The reaction mixture is stirred at 50° C. for 6 hours and then cooled to 10° C. Stirring is continued at 10° C. for 2 hours and the mixture filtered to obtain 5-[4[2-(5-ethyl-2-pyridinyl)ethoxy]phenyl]methenyl-2,4-thiazolidinedione. The wet cake is washed with Methanol.

reactant | 5-ethyl-2-pyridine ethanol | 10 g | C(C)C=1C=CC(=NC1)CCO | C9H13NO
reactant | triethylamine | 10.2 ml | C(C)N(CC)CC | C6H15N
reactant | methane sulfonyl chloride | 6.16 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 4[2-(5-ethyl-2-pyridyl)ethoxy]benzaldehyde | C(C)C=1C=CC(=NC1)CCOC1=CC=C(C=O)C=C1 | C16H17NO2
